US05134128
5-(2-Napthyl)pentan-1-ol
A mixture of 5-(2-napthyl)-4-pentyn-1-ol (520 mg, 247 mmol) and 10% palladium on activated carbon in ethyl ether (50 ml) was stirred at room temperature under a hydrogen atmosphere for 2 days. Solvent removal, after filtration through celite, gave the titled compound as a light yellow oil.

reactant | 5-(2-napthyl)-4-pentyn-1-ol | 247 mmol, 520 mg | C1=C(C=CC2=CC=CC=C12)C#CCCCO | C15H14O
catalyst | palladium on activated carbon | [Pd] | Pd
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 5-(2-Napthyl)pentan-1-ol | C1=C(C=CC2=CC=CC=C12)CCCCCO | C15H18O
